US08802864B2
c) 4-[4-(1-Benzofuran-5-yl)-2-methylphenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one
A microwaveable vial was charged with 4-(4-bromo-2-methylphenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (100 mg, 0.247 mmol), 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-benzofuran (63.2 mg, 0.259 mmol), PdCl2(dppf) (9.03 mg, 0.012 mmol), K2CO3 (85 mg, 0.617 mmol), 1,4-dioxane (3 mL) and water (1 mL). The reaction was purged with nitrogen, sealed and heated in a microwave reactor at 150° C. for 30 min (LCMS indicated complete conversion of starting material to desired product). The reaction mixture was concentrated under reduced pressure and the residue was dissolved in DMSO, filtered through a syringe filter and purified by reverse phase HPLC (Gilson, YMC-Pack ODS-A C18 5 μm 75×30 mm column, 10-90% MeCN/water+0.1% TFA, 3×1 mL injections). The appropriate fractions were concentrated to dryness and the residue was diluted with water (10 mL) and adjusted to pH 5 with conc. NH4OH. The resulting precipitate was collected by filtration and dried to constant weight under vacuum to provide the title product (40 mg, 0.090 mmol, 36.6% yield) as a white solid. MS(ES)+ m/e 443.1 [M+H]+.

reactant | 4-(4-bromo-2-methylphenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.247 mmol, 100 mg | BrC1=CC(=C(C=C1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O)C | C18H21BrN4O2
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-benzofuran | 0.259 mmol, 63.2 mg | CC1(OB(OC1(C)C)C=1C=CC2=C(C=CO2)C1)C | C14H17BO3
reactant | K2CO3 | 0.617 mmol, 85 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.012 mmol, 9.03 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 1 mL | O | H2O
product | 4-[4-(1-Benzofuran-5-yl)-2-methylphenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.090 mmol, 40 mg, 36.6% yield | O1C=CC2=C1C=CC(=C2)C2=CC(=C(C=C2)N2C(NN=C2C[C@H]2CN(CC2)C(=O)C2CC2)=O)C | C26H26N4O3
